US04166180
2-(3-Benzyloxyphenyl)piperazine
The glyoxal obtained as above was dissolved in a mixture of 180 ml. of methanol and 30 ml. of benzene. To the solution, 5.25 g. of anhydrous ethylene diamine was added with stirring. After stirring for a further 30 mins. at room temperature, 4.2 g. of sodium borohydride was added to the mixture little by little under ice cooling. After the completion of the addition, stirring was continued for 1.5 hr. at room temperature. To the residue obtained by removing the solvent, water was added to dissolve the residue. The aqueous solution was extracted with chloroform. The chloroform layer was washed with water and dried.

reactant | glyoxal | C(=O)C=O | C2H2O2
reactant | methanol | CO | CH4O
reactant | ethylene diamine | C(CN)N | C2H8N2
reactant | sodium borohydride | [BH4-].[Na+]
reactant | benzene | C1=CC=CC=C1 | C6H6
product | 2-(3-Benzyloxyphenyl)piperazine | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1NCCNC1 | C17H20N2O
